US06340759B1
3,4-Bis(acetoxymethyl)tributylstannylbenzene (1.91 g) and 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline (1.00 g) were heated under reflux overnight in the presence of tetrakistriphenylphosphinepalladium(0) (0.14 g) in xylene in nitrogen atmosphere. After cooling, the reaction solution was diluted with ethyl acetate and filtered. The filtrate was extracted with 2N hydrochloric acid, and the resulting aqueous layer was washed with ethyl acetate, adjusted to pH 10 with a 8N aqueous solution of sodium hydroxide, and then extracted with ethyl acetate. The extract was washed with a 10% aqueous solution of sodium carbonate and brine, and dried over magnesium sulfate. The solvent was evaporated, to give a mixture (1.36 g) of 1-(4-ethylpiperazin-1-yl)-3-[3,4-bis(acetoxymethyl)phenyl]isoquinoline as a brown viscous oil and the starting material.

reactant | 3,4-Bis(acetoxymethyl)tributylstannylbenzene | 1.91 g | C(C)(=O)OCC=1C=C(C=CC1COC(C)=O)[Sn](CCCC)(CCCC)CCCC
reactant | 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline | 1.00 g | BrC=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C15H18BrN3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakistriphenylphosphinepalladium(0) | 0.14 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-ethylpiperazin-1-yl)-3-[3,4-bis(acetoxymethyl)phenyl]isoquinoline | 1.36 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC(=C(C=C1)COC(C)=O)COC(C)=O | C27H31N3O4
